US06511974B1
(2-Chloro-6-pyrazol-1-yl-pyridin-3-yl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
To a suspension of 60% sodium hydride in oil (0.1 g) in dimethylformamide (25 ml) was added dropwise pyrazole (0.15 g). After hydrogen gas evolution ceased, (2,6-dichloropyridin-3-yl)(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (0.67 g) was added and the reaction mixture was heated in a sand bath at 110° C. for 18 hours. The mixture was poured onto ice, diluted with brine, and extracted with dichloromethane. The combined extracts were dried over anhydrous sodium sulfate and filtered through a short column of anhydrous sodium magnesium silicate. The solution was concentrated in vacuo and triturated with diethyl ether to give 0.18 g of the title compound as a colorless solid, m.p. 133-135° C. MS m/z: 390.8 (M+H)+, 779.1 (2M+H)+.

reactant | sodium hydride | [H-].[Na+]
reactant | pyrazole | 0.15 g | N1N=CC=C1 | C3H4N2
reactant | hydrogen | [H][H] | H2
reactant | (2,6-dichloropyridin-3-yl)(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.67 g | ClC1=NC(=CC=C1C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)Cl | C18H13Cl2N3O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | (2-Chloro-6-pyrazol-1-yl-pyridin-3-yl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.18 g | ClC1=NC(=CC=C1C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)N2N=CC=C2 | C21H16ClN5O
